US09144571B2
Preparation of 4-[hydroxy(di-2-thienyl)methyl]-1-(2-phenylethyl)-1-azoniabicyclo[2.2.2]octane bromide
Following the general procedure outlined in Example 4, 1-azabicyclo[2.2.2]oct-4-yl(di-2-thienyl)methanol (0.0658 g, 0.215 mmol) and (2-bromoethyl)benzene (0.050 mL, 0.366 mmol) in 1MeOH/1 CHCl3 (4.0 mL) were reacted to give the desired product (0.0514 g, 48.9%). EI-MS m/z 410 (M+) Rt (1.83 min).

reactant | 1-azabicyclo[2.2.2]oct-4-yl(di-2-thienyl)methanol | 0.215 mmol, 0.0658 g | N12CCC(CC1)(CC2)C(O)(C=2SC=CC2)C=2SC=CC2 | C16H19NOS2
reactant | (2-bromoethyl)benzene | 0.366 mmol, 0.050 mL | BrCCC1=CC=CC=C1 | C8H9Br
solvent | CHCl3 | 4.0 mL | C(Cl)(Cl)Cl | CHCl3
product | 4-[hydroxy(di-2-thienyl)methyl]-1-(2-phenylethyl)-1-azoniabicyclo[2.2.2]octane bromide | 0.0514 g, 48.9% | [Br-].OC(C12CC[N+](CC1)(CC2)CCC2=CC=CC=C2)(C=2SC=CC2)C=2SC=CC2 | InChI=1S/C24H28NOS2.BrH/c26-24(21-8-4-18-27-21,22-9-5-19-28-22)23-11-15-25(16-12-23,17-13-23)14-10-20-6-2-1-3-7-20;/h1-9,18-19,26H,10-17H2;1H/q+1;/p-1
